US04814419
12.57 g (67.5 mmole) 4,4'-biphenol.
This mixture was stirred and heated under a nitrogen atmosphere. To it was added over 8 minutes at 40°-49° C. aqueous sodium hydroxide (49.47%, 36.31 g, 447.8 mmole); the contents of the addition funnel were rinsed in with a total of about 6 ml of hot deionized water. Temperature was raised over 29 minutes to 109° C. and then over 1.5 hours to 122° C. while water was periodically drained from the Dean-Stark trap. Toluene was then removed over 27 minutes, the temperature rising to 160° C. A hot solution of 4,4'-dichlorodiphenylsulfone (64.62 g, 225.0 mmole) in toluene (75 ml) was then added over 25 minutes at a reactor temperature of 160° C., and the addition funnel was rinsed with about 10 ml of hot toluene. The mixture was stirred for 4 hours at 160°-162° C., becoming very viscous. To it were added in quick succession aqueous sodium hydroxide (49.47%, 0.19 g, 2.3 mmole), hot deionized water (about 1 ml), and toluene (5 ml). The added water was readily removed by distillation. The mixture was stirred about one hour longer at 160° C., then allowed to cool overnight. On the second day, chlorobenzene (195 g) was added, and the temperature was raised to 130° C. to effect complete solution. Methyl chloride was sparged in for one hour at 111°-114° C. to endcap the polymer; then oxalic acid 1.0 g (11 mmole) was added, and the mixture was stirred for 30 minutes at 109°-111° C. The solution was filtered through a layer of filter aid on a coarse porosity fritted-glass funnel. The polymer was recovered by coagulation in a Waring blender, washed thoroughly with water and methanol, and dried in a vacuum oven at about 150° C. Yield 66.98 g (63.4%), reduced viscosity (1 g/dl in N-methylpyrrolidone at 25° C.) 0.53 dl/g. The composition of the diphenol mixture used to make this copolymer was 70 mole percent tetramethylbisphenol A/30 mole percent bisphenol. Test results on the polymer containing tetramethylbisphenol A are given in Table 6.

reactant | sodium hydroxide | 447.8 mmole, 36.31 g | [OH-].[Na+]
reactant | 4,4'-dichlorodiphenylsulfone | 225.0 mmole, 64.62 g | C1=CC(=CC=C1S(=O)(=O)C2=CC=C(C=C2)Cl)Cl | C12H8Cl2O2S
reactant | sodium hydroxide | 2.3 mmole, 0.19 g | [OH-].[Na+]
reactant | oxalic acid | 11 mmole, 1.0 g | C(C(=O)O)(=O)O | C2H2O4
reactant | tetramethylbisphenol A | CC1=C(C(=C(C(=C1O)C)C)C(C)(C)C1=CC=C(C=C1)O)C | C19H24O2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | about 1 ml | O | H2O
product | 4,4'-biphenol | C1(=CC=C(C=C1)C1=CC=C(C=C1)O)O | C12H10O2
